US05677319
In 20 ml of methanol was dissolved 150 mg of 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-methoxymethoxy-5-methylaminomethylphenyl)thiazole. Thereto was added 0.2 ml of 10% hydrochloric acid. The mixture was stirred at 60° C. for 30 minutes. 2 ml of 10% sodium hydroxide was added, and the mixture was refluxed for 1 hour with heating. The reaction mixture was made neutral with 10% hydrochloric acid and the solvent was removed by distillation. The residue was mixed with ethanol. The insoluble was collected by filtration, washed with water, dried and recrystallized from dimethylformamide to obtain 35 mg of 2-(3,4-diethoxyphenyl-4-(3-carboxy-4-hydroxy-5-methylaminomethylphenyl)thiazole.

reactant | 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-methoxymethoxy-5-methylaminomethylphenyl)thiazole | 150 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C(=C1)CNC)OCOC)C(=O)OC | C25H30N2O6S
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3,4-diethoxyphenyl-4-(3-carboxy-4-hydroxy-5-methylaminomethylphenyl)thiazole | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C(=C1)CNC)O)C(=O)O | C22H24N2O5S
